US08357711B2
N-(2,4-dimethoxybenzyl)-1,2,4-thiadiazol-5-amine
2,4 Dimethoxybenzaldehyde (4.1 g, 24 mmol, 1 eq), 2 amino-1,2,4-thiadiazole (2.5 g, 24.7 mmol, 1 eq), Et3N (3.04 g, 30 mmol, 1 eq) and piperidine (25 mg, 0.297 mmol, 0.012 eq) were combined in DCM (100 ml) and the reaction mixture heated to reflux over sieves for 72 hours. The reaction mixture was cooled to room temperature and chlorotitaniumisopropoxide (1M solution in hexane, 29.7 ml, 29.7 mmol, 1.2 eq) was added and the reaction mixture stirred at room temperature for 15 minutes. The sieves were removed by filtration and the reaction mixture diluted with MeOH (50 ml). Sodium borohydride (3.7 g, 99 mmol, 4.0 eq) was added portionwise and the reaction mixture stirred for 1 hour. The reaction mixture was diluted with saturated sodium hydrogen carbonate (100 ml) and the resulting titanium precipitate removed by filtration through Celite. The filtrate was dried over sodium sulphate, filtered and evaporated in vacuo. The crude material was purified by column chromatography eluting with 15-60% ethyl acetate: heptane to yield the title compound (111 g, 4.38 mmol, 17%).

reactant | 2,4 Dimethoxybenzaldehyde | 24 mmol, 4.1 g, 1 eq | COC1=C(C=O)C=CC(=C1)OC | C9H10O3
reactant | amino-1,2,4-thiadiazole | 24.7 mmol, 2.5 g, 1 eq | NC1=NSC=N1 | C2H3N3S
reactant | Et3N | 30 mmol, 3.04 g, 1 eq | CCN(CC)CC | C6H15N
reactant | Sodium borohydride | 99 mmol, 3.7 g, 4.0 eq | [BH4-].[Na+]
solvent | DCM | 100 ml | C(Cl)Cl | CH2Cl2
solvent | sodium hydrogen carbonate | 100 ml | C(O)([O-])=O.[Na+]
catalyst | chlorotitaniumisopropoxide | 29.7 mmol, 1M, 29.7 ml, 1.2 eq | CC([O-])C.Cl[Ti+3].CC([O-])C.CC([O-])C
catalyst | piperidine | 0.297 mmol, 25 mg, 0.012 eq | N1CCCCC1 | C5H11N
solvent | heptane | CCCCCCC | C7H16
product | N-(2,4-dimethoxybenzyl)-1,2,4-thiadiazol-5-amine | 4.38 mmol, 111 g, 17% | COC1=C(CNC2=NC=NS2)C=CC(=C1)OC | C11H13N3O2S
